US07335660B2
a) 3-[(1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]-1,3-oxazolidin-2-one
To a stirred solution of 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol (0.815 g, 3.17 mmol) in dry dioxan (5 mL) was added 1,3-oxazolidin-2-one (0.26 g, 2.95 mmol), trans-1,2-cyclohexanediamine (0.05 mL, 0.42 mmol), copper(I) iodide (0.040 g, 0.21 mmol) and potassium carbonate (1.02 g, 7.36 mmol), and the mixture heated at reflux under nitrogen overnight. 2M Ammonia was added and the mixture extracted into dichloromethane. The combined organic extracts were dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by flash chromatography on silica to yield the title compound.

reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol | 3.17 mmol, 0.815 g | BrC=1C=CC2=C(CCO[C@H]2CCO)C1 | C11H13BrO2
reactant | 1,3-oxazolidin-2-one | 2.95 mmol, 0.26 g | O1C(NCC1)=O | C3H5NO2
reactant | trans-1,2-cyclohexanediamine | 0.42 mmol, 0.05 mL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | potassium carbonate | 7.36 mmol, 1.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ammonia | 2M | N | H3N
solvent | dioxan | 5 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.21 mmol, 0.040 g | [Cu]I
product | 3-[(1S)-1-(2-Hydroxyethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]-1,3-oxazolidin-2-one | OCC[C@@H]1OCCC2=C1C=CC(=C2)N2C(OCC2)=O | C14H17NO4
